US06265575B1
Part C. 2-(4-Hydroxyphenyl)-3-[4-[2-(1-piperidinyl)ethoxy]benzoyl]benzo[b]thiophene-6-carboxylic Acid Methyl Ester
To a solution of 3.7 mL of anhydrous DMF, 1.8 mL of anhydrous triethylamine, and 1.8 mL of anhydrous methanol was added 1.0 g (1.4 mmol) of 2-[4-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]-6-[[(trifluoromethyl)sulfonyl]oxy]benzo[b]thiophen-3-yl 4-[2-(1-piperidinyl)ethoxy]phenyl ketone (Part B) at room temperature. To this were added 29.4 mg (0.13 mmol) of Pd(II) acetate and 53.8 mg (0.13 mmol) of 1,3-bis(diphenylphosphino)propane, and the flask was evacuated and then filled with carbon monoxide in a balloon. The reaction mixture was heated at 55° C. for 12 h under a carbon monoxide atmosphere. After cooling the reaction mixture to room temperature, the solution was saturated with nitrogen gas and then concentrated at reduced pressure. To this were added 5 mL of THF and 4 mL of 1N HCl, and the solution was stirred at room temperature for 3 h. The reaction mixture was treated with 10 mL of 2N ammonium hydroxide solution for an additional hour at room temperature. The solution was poured into a separatory funnel and the aqueous layer was saturated with sodium chloride and extracted three times with 50 mL portions of THF. The combined organic layers were washed with brine, dried with anhydrous sodium sulfate, and concentrated at reduced pressure. The residue was purified on silica gel (0 to 10% MeOH in CH2Cl2) to give 578 mg (1.1 mmol, 80%) of an orange foam.

reactant | DMF | 3.7 mL | CN(C)C=O | C3H7NO
reactant | triethylamine | 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | 2-[4-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]-6-[[(trifluoromethyl)sulfonyl]oxy]benzo[b]thiophen-3-yl 4-[2-(1-piperidinyl)ethoxy]phenyl ketone | 1.4 mmol, 1.0 g | N1(CCCCC1)CCOC1=CC=C(C=C1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)C=C(C=C2)OS(=O)(=O)C(F)(F)F | C35H40F3NO6S2Si
reactant | 1,3-bis(diphenylphosphino)propane | 0.13 mmol, 53.8 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | methanol | 1.8 mL | CO | CH4O
product | 2-(4-Hydroxyphenyl)-3-[4-[2-(1-piperidinyl)ethoxy]benzoyl]benzo[b]thiophene-6-carboxylic Acid Methyl Ester | 1.1 mmol, 578 mg, 80% | COC(=O)C=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)O)C1 | C30H29NO5S
